US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (0.500 g, 1.18 mmol), from preparation A) and 6-chloro-2-(4-ethoxyphenyl)hexanoic acid (0.351 g, 1.30 mmol, from preparation AAN) were coupled [N-methylmorpholine (0.647 mL, 5.89 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.148 mL, 4.71 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(5-chloro-1-(4-ethoxyphenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown residue. The crude product was used in the next step without purification. LC-MS (M+H)+ 515.1.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | 1.18 mmol, 0.500 g | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-ethoxyphenyl)hexanoic acid | 1.30 mmol, 0.351 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC | C14H19ClO3
reactant | N-methylmorpholine | 5.89 mmol, 0.647 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 4.71 mmol, 0.148 mL | NN | H4N2
product | 5-(5-chloro-1-(4-ethoxyphenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)OCC)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C25H28Cl2N6O2
